US06589978B2
(2RS,5SR)-3-Cyclopropyl-5-{2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-[1,2,4]oxadiazole
The title compound, white solid, m.p. 129° C. and MS: m/e=456.4 (M+) was prepared in accordance with the general method of example 13 from N-hydroxy-cyclopropane-carboxamidine and (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid.

reactant | N-hydroxy-cyclopropane-carboxamidine | ONC(=N)C1CC1 | C4H8N2O
reactant | (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCC(=O)O | C20H22FNO4S
product | (2RS,5SR)-3-Cyclopropyl-5-{2-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-ethyl}-[1,2,4]oxadiazole | C1(CC1)C1=NOC(=N1)CCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C24H26FN3O3S
